US07495018B2
N-ethyl-N′-[4-[2-ethyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridyl]urea
To A solution of 4-[2-ethyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridylamine (0.50 g, 1.7 mmol) in N,N-dimethylacetamide (10 mL) was added ethyl isocyanate (0.20 mL, 2.5 mmol) and the reaction mixture was stirred at 80° C. for 20 hours. The reaction mixture was poured into aqueous sodium hydrogen carbonate and extracted with ethyl acetate. The extracts were washed with aqueous sodium hydrogen carbonate solution and brine. The resulting solution was dried, and concentrated under reduced pressure. The obtained crude crystal was recrystallized from ethyl acetate-hexane to give a title compound (0.29 g, yield 47%).

reactant | 4-[2-ethyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridylamine | 1.7 mmol, 0.50 g | C(C)C=1SC(=C(N1)C1=CC(=CC=C1)C)C1=CC(=NC=C1)N | C17H17N3S
reactant | ethyl isocyanate | 2.5 mmol, 0.20 mL | C(C)N=C=O | C3H5NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | N-ethyl-N′-[4-[2-ethyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridyl]urea | 0.29 g, yield 47% | C(C)NC(=O)NC1=NC=CC(=C1)C1=C(N=C(S1)CC)C1=CC(=CC=C1)C | C20H22N4OS
